US08835020B2
2,4-diphenylaniline (12 mmol), 1-bromo-2-fluorobenzene (10 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.15 mmol), (±)-2,2′-bis(diphenylphosphine)-1,1′-binaphthalene (0.3 mmol) and sodium tert-butoxie (14 mmol) are put in a two-neck round-bottom flask and dissolved in toluene (30 mL). Subsequently, the resulting solution is stirred in a bath under a temperature of about 100° C. for 24 hours. After completion of the reaction, toluene is removed. The reaction mixture is extracted with dichloromethane and water, and then being distilled under reduced pressure. The resulting residence is filtered by silica gel column and distilled under reduced pressure again. Next, by re-crystallizing and filtering with dichloromethane and petroleum ether, 2,4-diphenyl-N-2-fluorophenylbenzenamine (2.1 g) is yielded.

reactant | 2,4-diphenylaniline | 12 mmol | C1(=CC=CC=C1)C1=C(N)C=CC(=C1)C1=CC=CC=C1 | C18H15N
reactant | 1-bromo-2-fluorobenzene | 10 mmol | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | sodium | [Na] | Na
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.15 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,4-diphenyl-N-2-fluorophenylbenzenamine | 2.1 g | C1(=CC=CC=C1)C1=C(C=CC(=C1)C1=CC=CC=C1)NC1=C(C=CC=C1)F | C24H18FN
